US04997840
A mixture of the crude 3-allyloxy-7-cyano-1-methyl-4-quinolone (1.2 g), tris(triphenylphosphine)rhodium chloride (0.1 g) and ethanol (200 ml) was heated under reflux for 2 days. Hydrochloric acid (1M, 10 ml) was added, the mixture heated under reflux for 2 hours and then the solvent was evaporated under reduced pressure at 50°. The residue was extracted with aqueous sodium hydroxide (1M, 50 ml) and the extract neutralised with hydrochloric acid (12M, 4 ml). The resultant solid was collected by filtration and washed with water (10 ml) t give the novel compound 7-cyano-3-hydroxy-1-methyl-4-quinolone, m.p. 305°.

reactant | 3-allyloxy-7-cyano-1-methyl-4-quinolone | 1.2 g | C(C=C)OC1=CN(C2=CC(=CC=C2C1=O)C#N)C | C14H12N2O2
reactant | Hydrochloric acid | 1M, 10 ml | Cl | ClH
catalyst | tris(triphenylphosphine)rhodium chloride | 0.1 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 7-cyano-3-hydroxy-1-methyl-4-quinolone | C(#N)C1=CC=C2C(C(=CN(C2=C1)C)O)=O | C11H8N2O2
